US04324796
30 g of 7-(4-chlorophenyl)heptan-1-ol, 0.13 g of red phosphorus and 37 ml of 62% strength hydrogen bromide are boiled for 6 hours, 8 ml of concentrated sulfuric acid are then added dropwise and the mixture is boiled again for 6 hours. The reaction mixture is poured into 100 ml of ice-water and is extracted twice with diethyl ether; the ether extracts are concentrated and the residue is distilled. 33.5 g of 7-(4-chlorophenyl)heptyl bromide of b.p. 125° to 127° under 0.1 mm Hg are obtained.

reactant | 7-(4-chlorophenyl)heptan-1-ol | 30 g | ClC1=CC=C(C=C1)CCCCCCCO | C13H19ClO
reactant | hydrogen bromide | Br | BrH
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
product | 7-(4-chlorophenyl)heptyl bromide | 33.5 g | ClC1=CC=C(C=C1)CCCCCCCBr | C13H18BrCl
